US04332948
3.1 g of anthracene-9-aldehyde and 1.8 g of 1-methyl-1-phenylhydrazine were added to 50 ml of ethanol. To the mixture, two or three drops of 1 N hydrochloric acid were added. The mixture was heated and refluxed for about one hour. The reaction mixture was cooled and the crystals then separated, which were then collected on a suction funnel. The thus obtained crude anthracene-9-aldehyde 1-methyl-1-phenylhydrazone was recrystallized from ethyl acetate. The yield was 2.3 g (48.9%) of yellow needle-like crystals which melt at 162.0°-162.5° C.

reactant | anthracene-9-aldehyde | 3.1 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C=O | C15H10O
reactant | 1-methyl-1-phenylhydrazine | 1.8 g | CN(N)C1=CC=CC=C1 | C7H10N2
catalyst | hydrochloric acid | 1 N, three drops | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | anthracene-9-aldehyde 1-methyl-1-phenylhydrazone | CN(N=CC=1C2=CC=CC=C2C=C2C=CC=CC12)C1=CC=CC=C1 | C22H18N2
